US06566367B2
Heat a solution of 2-chloro-6-trifluoromethyl-3-H-imidazo[4,5-b]pyridine (0.1 g, 0.45 mmol) and spiro[isobenzofuran-1,4′-piperidin]-3-one (0.2 g, 0.90 mmol) in dry NMP (5 mL) at 100° C. for 10 hours. Pour the cooled mixture into water (20 mL) and extract twice with EtOAc (20 mL). Wash the combined extracts with brine (20 mL), dry, and evaporate in vacuo. Purify by preparative TLC (4% MeOH-CH2Cl2) to obtain 1′-(6-trifluoromethyl-3-H-imidazo[4,5-b]pyridine-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one as a yellow solid.

reactant | 2-chloro-6-trifluoromethyl-3-H-imidazo[4,5-b]pyridine | 0.45 mmol, 0.1 g | ClC1=NC=2C(=NC=C(C2)C(F)(F)F)N1 | C7H3ClF3N3
reactant | spiro[isobenzofuran-1,4′-piperidin]-3-one | 0.90 mmol, 0.2 g | N1CCC2(CC1)OC(C1=CC=CC=C12)=O | C12H13NO2
reactant | water | 20 mL | O | H2O
solvent | NMP | 5 mL | CN1CCCC1=O | C5H9NO
product | 1′-(6-trifluoromethyl-3-H-imidazo[4,5-b]pyridine-2-yl)-spiro[isobenzofuran-1,4′-piperidin]-3-one | FC(C=1C=C2C(=NC1)NC(=N2)N2CCC1(CC2)OC(C2=CC=CC=C21)=O)(F)F | C19H15F3N4O2
